USRE029836
4-Hydroxy-3-(5-methyl-3-isoxazolylcarbamoyl)-2H-1,2-benzothiazine 1,1-Dioxide
A mixture of 15.3 g. (0.06 mole) of 3-carbethoxy-4-hydroxy-2-methyl-2H-1,2-benzothiazine 1,1-dioxide, 5.9 g. (0.06 mole) of 3-amino-5-methylisoxazole, and 800 ml. of xylene was refluxed for 24 hr. in a Soxhlet apparatus, the thimble of which contained 20 g. of Linde type 4A molecular sieve. The mixture was cooled to 25° and the resulting precipitate was collected and washed with ether to give 11.5 g. of crude product, m.p. 242-248° dec. Recrystallization from 300 ml. of 1,4-dioxan gave 11.2 g. of crystalline product, m.p. 254-257° dec.

reactant | 3-carbethoxy-4-hydroxy-2-methyl-2H-1,2-benzothiazine 1,1-dioxide | 0.06 mole | C(=O)(OCC)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)C | C12H13NO5S
reactant | 3-amino-5-methylisoxazole | 0.06 mole | NC1=NOC(=C1)C | C4H6N2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Hydroxy-3-(5-methyl-3-isoxazolylcarbamoyl)-2H-1,2-benzothiazine 1,1-Dioxide | OC1=C(NS(C2=C1C=CC=C2)(=O)=O)C(NC2=NOC(=C2)C)=O | C13H11N3O5S
